US04470972
As described in Example 1, react 1-benzyloxycarbonyl-4-keto-(S)-proline, ethyl ester (prepared from the acid by esterification in ethanol) with 1,2-ethane dithiol to obtain 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, ethyl ester, a yellow oil [α]D26 -21.0° (ethanol).

reactant | 1-benzyloxycarbonyl-4-keto-(S)-proline, ethyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)OCC)CC(C1)=O | C15H17NO5
reactant | 1,2-ethane dithiol | C(CS)S | C2H6S2
solvent | ethanol | C(C)O | C2H6O
product | 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, ethyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OCC | C17H21NO4S2
